Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I wanted to kill myself."
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult 
note:
.
___ is an ___ y/o F with no significant PMH who was 
BIBA after being found down intoxicated on alcohol, reporting 
suicidal ideation and worsening depression. Since ___, she 
reports feeling so depressed that she did not get out of bed for 
most of the day and did not leave her dorm complex until the 
evening of ___. She endorses sleeping most the day, feeling 
fatigued and not hungry. During this past week, she reports 
eating only a bagel per day, stating, "I told myself I could 
only eat if I went to classes." She endorses ongoing passive 
suicidal ideation of wanting to be run over by a car or end up 
in a car accident that has been present for the past year with 
moments of active suicidal ideation to "drink myself to death", 
or take an overdose on painkillers or get into a car accident. 
She recognizes that a single evening of drinking to excess may 
not be enough to kill her, but she hopes that it will eventually 
and notes urges to walk into traffic so that a car could kill 
her. She also notes having ___ panic attacks daily where she 
feels like she cannot breathe, tremulous, sweating with 
palpitations. Of note, she stated that prior to this past week, 
she has felt very productive, sleeping only ___ hours per night 
most nights and feeling "full of energy" and not tired during 
the day. 
.
She reports a history of periods of depression alternating with 
periods of increased productivity and decreased need for sleep 
that would last anywhere from ___ weeks long. She notes that 
while for the past year, she has had passive suicidal ideation: 
"I wish a car would run me over", this has been intermittently 
shifted into active suicidal ideation with plan to crash her car 
or take an overdose of pills. She reports approximately ___ 
discreet episodes of active suicidal ideation with plan in the 
past year. In ___, she reports taking a combination 
of Tylenol and hydromorphone pills in a suicide attempt, but 
notes that she only felt sick. She reports that a month later, 
she told her mom about her depression (but not the attempt), who 
then took her to see a therapist. She endorses 'dreading' these 
visits and stopped seeing this therapist after a short time. 
During one of her periods where she had little sleep, she noted 
hearing her math teacher's voice and began to believe she was in 
math class despite being in her room at home. She denies any 
paranoia, ideas of reference, thought insertion or thought 
broadcasting. "
.
In the ED, no chemical or physical restraints were needed. The 
patient.
.
On interview today, patient reiterates that at least part of her 
intention for the alcohol binge was suicide, stating she was 
"hoping to die at the time" and "I felt crappy all week and I 
wanted to forget". She does endorse regret for the suicide 
attempt, and she states she is currently "feeling better", 
denying SI currently. She stated that since ___ she has had 
a severe lack of motivation, finding it difficult to get out of 
bed, and she did not attend school. She also notes hypersomnia, 
low energy, low mood, anhedonia, increased appetite, 
worthlessness, and guilt. She had an episode of eating a pint of 
ice cream and then purging after eating it due to feelings of 
guilt. She did not reach out to a friend or discuss these 
symptoms with her family. She did schedule an appointment with 
___ for ___. This is the ___ time this year 
she has had this constellation of symptoms. The night of the 
attempt she was at a party, which initially she went to in 
attempt to elevate her mood. She notes a recent sexual encounter 
as a precipitant to her depressive symptoms. She became tearful 
discussing the regret she had regarding the sexual encounter. 
She denies any sexual trauma from the event and reiterates 
several times that it was an "error in judgment". 
.
Last week she stated she felt "good" and was "super productive". 
For 4 days last week she required less sleep (sleeping only from 
2am to 5am) and applied for several jobs, which she states is 
out of character. She denies any risky behavior but does note 
having more "sexual thoughts". 
.
She currently does not believe she requires inpatient care. She 
notes worries that her parents will see the ___ from the 
hospitalization, and she does not want them to worry. Her 
parents do not know about this suicide attempt or her previous 
suicide attempt. 
.
REVIEW OF SYSTEMS:
-General: Denies fatigue, fever, chills, nightsweats,
focal numbness, focal weakness, changes in vision, changes in
hearing, heat intolerance, cold intolerance, polyuria,
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea,
vomiting, diarrhea, constipation, melena, blood in stools,
dysuria, increased urinary frequency, rash, skin changes, joint
pain, muscle pain, edema, bruising, bleeding.
.
+headache
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:

-Prior diagnoses: depression and anxiety
-Hospitalizations: denies
-Partial hospitalizations: denies
-Psychiatrist: denies
-Therapist: 1 prior therapist seen during ___ year of high
school
-Medication trials: denies
-___ trials: denies
-Suicide attempts: 1 prior suicide attempt via ingestion of
Tylenol and hydromorphone tablets
-Self-injurious behavior: restricts eating as punishment for not
doing her work/not going to class
-Harm to others: denies
-Trauma: denies
-Access to weapons: denies
.
PAST MEDICAL HISTORY:
**PCP: none currently
Denies history of head trauma, seizure. Denies any medical
history.
.

MEDICATIONS:
Vitamin D supplementation 1000U daily 
.
ALLERGIES: 
NKDA

 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine: 1 cup of coffee daily
-Alcohol: Once weekly social drinker, typically drinks 1 mixed
drinks with hard liquor; Denies history of alcohol withdrawal,
DTs, seizures.
Denies any other drug use (past or present)
.
FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
.
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: depression on mother's side of the 
family
-Substance Use Disorders: denies
-Suicide Attempts/Completed Suicides: denies

 
Pertinent Results:
HgA1c 5.4
Lipid Panel: Chol 175 Tg 78 HDL 71 Chol/HD LDLcalc 88 
TSH 3.6

___ 06:40AM BLOOD WBC-7.0 RBC-4.37 Hgb-13.7 Hct-40.6 MCV-93 
MCH-31.4 MCHC-33.7 RDW-13.0 RDWSD-44.1 Plt ___
___ 07:00AM BLOOD Glucose-102* UreaN-12 Creat-0.6 Na-142 
K-4.5 Cl-104 HCO3-21* AnGap-17
___ 06:40AM BLOOD ALT-11 AST-17 AlkPhos-74 TotBili-0.___. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___. She was 
discharged prior to the ___ expiration date of ___.  
She was also placed on 15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.
.
2. PSYCHIATRIC:
___ is an ___ y/o F full time ___ student with 
history of previous suicide attempt who was BIBA after being 
found down intoxicated on alcohol, reporting suicidal ideation 
and worsening depression Initial interview notable for suicide 
attempt in the context of many depressive symptoms namely 
hypersomnia, amotivation, low energy, increased appetite, 
hopelessness, guilt, and anhedonia. Currently, patient is 
denying suicidal ideation, noting regret of attempt and 
insisting she does not require inpatient hospitalization. 
However, in the ED the patient noted ongoing suicidal ideation 
with plan (e.g crash her car, overdoes on pills, walk into 
traffic). Patient is noted with history of some questionable 
manic/hypomanic symptoms (e.g increased energy, less need for 
sleep, applying for multiple jobs in span of a few days). She 
also mentioned symptoms of anxiety and panic attacks. Initial 
mental status exam notable for patient appearing very dysphoric 
and in despair. She denied SI, HI, and AVH. Her insight and 
judgment were limited. 
.
Diagnostically, her presentation seems consistent with a 
depressive episode. Given the questionable hypomania/mania 
symptoms, bipolar disorder is possible, however, major 
depressive disorder with anxious features seems most likely. 
.
The patient was initiated on an antidepressant trial of 
citalopram. Patient was noted to have an improvement in mood, 
energy, motivation and overall outlook. No signs of 
hypomania/mania were noted. She reported an appreciation for 
having a period of time to reflect on the events that led to the 
admission.  Notably she notified friends and her sister 
regarding last week's events. She had mentioned that previously 
she wasn't as forthcoming with her sister and now going forward 
she hopes to be more open with her. She was more future 
oriented, looking forward to resuming classes, playing the 
flute, and continuing her treatment outpatient. On mental status 
exam, she was noted to be well groomed with good eye contact. 
Her affect was noted to be euthymic. She denied SI, HI, and AVH. 
Insight and judgment were noted to have improved since 
admission. 
.
Regarding future recommendation, would continue to monitor for 
hypomania/mania with citalopram. 
.
3. SUBSTANCE USE DISORDERS:
#Alcohol use- counseled regarding deleterious effects of 
drinking and binge drinking 
.
4. MEDICAL
#) No notable medical issues; labs as above.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was noted to be 
interactive with other patients on the unit.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
The treatment team reached out to the patient's sister ___ 
___ ___, which provided her the opportunity to 
discuss the patient's diagnosis, treatment  plan, prognosis, and 
 aftercare planning. By the time of discharge, the patient's 
sister noted no concern for the patient's safety in the 
community.
.
RISK ASSESSMENT 
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon ingestion of 
alcohol with suicidal intent and worsening depression.  Their 
static factors noted at that time included  history of suicide 
attempts,  chronic mental illness, history of substance abuse, 
history of self-injurious behavior, and family history of mental 
illness.  The modifiable risk factors on admission included 
suicidal ideation, poorly controlled mental illness, lack of 
engagement with outpatient treatment, no established outpatient 
providers, hopelessness, severe anxiety/panic attacks. These 
risk factors were addressed by initiating antidepressant 
treatment, encouraging the patient to reach out to friends and 
family regarding her mental illness, and set up follow up with 
outpatient mental health providers. Finally, the patient is 
being discharged with many protective risk factors, help-seeking 
nature, future-oriented viewpoint, follow up appointment with 
mental health provider, life satisfaction, reality testing 
ability, and lack of suicidal ideation. At the time of discharge 
the patient demonstrated preserved capacity to engage in 
meaningful conversation about safety planning and what she would 
do if thoughts of suicide or self harm returned.  She stated she 
would tell her friend (the friend that she told about her 
current admission), she would reach out to behavioral health at 
the school, or call ___. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Citalopram 10 mg PO DAILY 
RX *citalopram 20 mg ___ tablet(s) by mouth see below Disp 
#*14 Tablet Refills:*1 
2.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent, severe
R/o bipolar disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___